US08466282B2
5-[(benzyloxy)methyl]-1-phenyl-1H-1,2,3-triazole-4-carboxylic acid
Methyl 4-(benzyloxy)-3-oxobutanoate (5.00 g) and azidobenzene (2.68 g) were dissolved in methanol (30 ml), sodium methanolate (28% methanol solution, 6.5 g) was added and the mixture was stirred at room temperature for 2 hr, and then heated under reflux for 18 hr. 1M Aqueous sodium hydroxide solution (10 ml) was added and the mixture was heated under reflux for 2 hr. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The residue was dissolved in water and washed with ethyl acetate-hexane (1:1, v/v). The obtained aqueous solution was acidified with 1M hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the object product (6.03 g).

reactant | Methyl 4-(benzyloxy)-3-oxobutanoate | 5.00 g | C(C1=CC=CC=C1)OCC(CC(=O)OC)=O | C12H14O4
reactant | azidobenzene | 2.68 g | N(=[N+]=[N-])C1=CC=CC=C1 | C6H5N3
reactant | sodium methanolate | 6.5 g | C[O-].[Na+]
reactant | sodium hydroxide | 1M, 10 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 5-[(benzyloxy)methyl]-1-phenyl-1H-1,2,3-triazole-4-carboxylic acid | 6.03 g | C(C1=CC=CC=C1)OCC1=C(N=NN1C1=CC=CC=C1)C(=O)O | C17H15N3O3
